US07585881B2
Step 1: 5-(3-Chloro-phenyl)-isoxazole-3-carboxylic acid methyl ester:
A solution of 4-(3-chloro-phenyl)-2,4-dioxo-butyric acid ethyl ester (3.0 g, 11.8 mmol) and hydroxylamine hydrochloride (2.46 g, 35.4 mmol) in MeOH (60 ml) was heated at 80° C. for 4 h. After cooling, the mixture was filtered and washed with cold methanol to afford 5-(3-chloro-phenyl)-isoxazole-3-carboxylic acid methyl ester (2.0 g, 71%). 1H NMR: 7.82 (s, 1H), 7.72 (m, 1H), 7.47 (m, 2H), 4.03 (s, 3H). Step 2: 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethanone: In a screw cap vial equipped with stir bar was mixed methyl magnesium iodide (3M in Et2O) (0.79 ml, 2.38 mmol), toluene (1 ml), tetrahydrofuran (0.39 ml, 4.77 mmol) and TEA (1 ml, 7.15 mmol). After cooling to 0° C. a solution of 5-(3-chloro-phenyl)-isoxazole-3-carboxylic acid methyl ester (300 mg, 1.19 mmol) in toluene (5 ml) was added, followed by stirring at 0° C. for 5 h. The mixture was then quenched with aq 1N HCl (6.5 ml, 6.5 mmol), diluted with toluene (35 ml), sequentially washed with water, sat. aq. sodium bicarbonate,water and brine. The organic phase was concentrated in-vacuo. The isolated residue was dissolved in MeOH (8 ml) and 20% aq. KOH (1 ml) was added, followed by stirring at 45° C. for 30 min and then concentrated in-vacuo. The residue was dissolved in toluene (60 ml), sequentially washed with water, sat. aq. sodium bicarbonate and water. The organic phase was concentrated in-vacuo. The crude residue was purified on silica gel using 2% EA in hex. to isolate the desired compound (156 mg, 60%). 1H-NMR: 7.77 (m, 1H), 7.66 (m, 1H), 7.42 (m, 2H), 6.90 (s, 1H), 2.69 (s, 3H). Step 3: 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethanol: In a screw cap vial equipped with stir bar was mixed 1-[5-(3-chloro-phenyl)-isoxazol-3-yl]-ethanone (100 mg, 0.45 mmol), sodium borohydride (34 mg, 0.90 mmol) and MeOH (3 ml), followed by stirring at r.t for 3 h and the quenched with water and brine, extracted with DCM. The combined organic phase was dried (Na2SO4), filtered and concentrated in-vacuo to isolate the title compound. 1H-NMR: 7.69 (m, 1H), 7.59 (m, 1H), 7.37 (m, 2H), 6.59 (s, 1H), 5.07 (q, 1H), 3.45 (br. s, 1H), 1.58 (d, 3H).

reactant | 1-[5-(3-Chloro-phenyl)-isoxazol-3-yl]-ethanol | ClC=1C=C(C=CC1)C1=CC(=NO1)C(C)O | C11H10ClNO2
reactant | 1-[5-(3-chloro-phenyl)-isoxazol-3-yl]-ethanone | 0.45 mmol, 100 mg | ClC=1C=C(C=CC1)C1=CC(=NO1)C(C)=O | C11H8ClNO2
reactant | sodium borohydride | 0.90 mmol, 34 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | 5-(3-Chloro-phenyl)-isoxazole-3-carboxylic acid methyl ester | COC(=O)C1=NOC(=C1)C1=CC(=CC=C1)Cl | C11H8ClNO3
